US08912186B2
1) 1-(Biphenyl-4-yl)-3-(4-chlorophenyl)prop-2-en-1-one
Synthesised according to example 1.59.1 using 4-chlorobenzaldehyde (3.58 g, 25.48 mmol) and 1-(biphenyl-4-yl)ethanone (5.00 g, 25.48 mmol); pale yellow solid; yield: 7.74 g (95%);

reactant | 4-chlorobenzaldehyde | 25.48 mmol, 3.58 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 1-(biphenyl-4-yl)ethanone | 25.48 mmol, 5.00 g | C1(=CC=C(C=C1)C(C)=O)C1=CC=CC=C1 | C14H12O
product | 1-(Biphenyl-4-yl)-3-(4-chlorophenyl)prop-2-en-1-one | C1(=CC=C(C=C1)C(C=CC1=CC=C(C=C1)Cl)=O)C1=CC=CC=C1 | C21H15ClO
